US05772990
10 g of 2-amino-4,6-dichloropyrimidine are suspended in 100 ml of ethanol. 11.80 g of methylamine are added as a 40% solution in water. The reaction mixture is refluxed for 3 hours. After it has returned to room temperature, 4 g of potassium hydroxide in solution in 40 ml of ethanol are added. After being stirred for half an hour the reaction mixture is filtered on paper. It is evaporated to dryness. The precipitate obtained is taken up in 25 ml of water, filtered off on sintered glass, rinsed with 25 ml of water and then dried in vacuum and over phosphorus pentoxide. 8.50 g of 2-amino-4-methylamino-6-chloropyrimidine are obtained.

reactant | 2-amino-4,6-dichloropyrimidine | 10 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | methylamine | 11.80 g | CN | CH5N
reactant | potassium hydroxide | 4 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 2-amino-4-methylamino-6-chloropyrimidine | 8.50 g, Yield=88% | NC1=NC(=CC(=N1)NC)Cl | C5H7ClN4
